US06436966B1
N-Methyl[5-phenyl-4-(3-pyridyl)-1,3-thiazol-2-yl]amine
To a solution of N-methylthiourea (484 mg) in acetonitrile (40 mL), was added 2-bromo-2-phenyl-1-(3-pyridyl)ethanone hydrobromide (2.0 g), and then triethylamine (0.8 mL) was added dropwise to the mixture with stirring. After addition, the resulting mixture was stirred at reflux for 3 h and the solvent was evaporated. An aqueous saturated solution of sodium hydrogen carbonate was added to the residue and extracted with ethyl acetate. The extracts were washed with water, dried and the solvent was evaporated. The crystalline residue was recrystallized from ethyl acetate-isopropyl ether to give the title compound (1.2 g, yield 80%).

reactant | N-methylthiourea | 484 mg | CNC(=S)N | C2H6N2S
reactant | 2-bromo-2-phenyl-1-(3-pyridyl)ethanone hydrobromide | 2.0 g | Br.BrC(C(=O)C=1C=NC=CC1)C1=CC=CC=C1
reactant | triethylamine | 0.8 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | N-Methyl[5-phenyl-4-(3-pyridyl)-1,3-thiazol-2-yl]amine | 1.2 g, yield 80% | CNC=1SC(=C(N1)C=1C=NC=CC1)C1=CC=CC=C1 | C15H13N3S
